Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Planned admission for allogenic stem cell transplant
 
Major Surgical or Invasive Procedure:
Allogeneic stem cell transplant (___)

 
History of Present Illness:
___ with no significant medical history with relapsed AML, 24
months (day 694) after MRD allo-transplant s/p reinduction
therapy with MEC + Lenalidomide, here for planned admission for
second allo transplant with a different, unrelated donor. 

The patient initially presented in ___ after several weeks
of progressive fatigue and was found to be anemic when 
attempting
to donate blood to ___. Bone marrow biopsy showed AML and
he had his first allogeneic SCT on ___. Over the last few
years he had been doing well until recently where he was noted 
to
have persistent cytopenias despite discontinuing certain bone
marrow suppressive medications. Repeat bone marrow biopsy on
___ showed relapsed AML. He subsequently underwent induction
with MEC+Lenalidomide which was well tolerated other than a 24
pound weight loss. Bone marrow biopsy on ___ showed
morphologic remission. 

Today, ___ states that he is feeling very well. He had his
central line placed by ___ and says that it is not causing too
much discomfort. Importantly, he has gained some of his weight
back, though his appetite is not what it used to be. Review of
systems is otherwise completely negative. 

 
Past Medical History:
TREATMENT COURSE:
___ INITIAL BMBX  AML
___  INDUCTION DAUNOrubicin (60mg/m2) Cytarabine (100mg/m2)  
___  D+14 BMBx ablated
___  D+28 LP with IT 70 mg Cytarabine
___  D+29 hematologic recovery 
___   Bone marrow biopsy: remission FLT3 negative 
___  HiDAC,  BMBx remission FLT3 negative
___  BMBX pre-transplant

ALLOGENEIC TRANSPLANT ADMISSION
ADMIT DATE: ___
DISCHARGE DATE: ___
CONDITIONING REGIMEN: ___
GVHD Prophylaxis: tacrolimus and MTX
DAY 0: ___ 
CELL DOSE: CD34/kg = 7.80e6

RECIPIENT  is CMV(+), ABO:Oneg
DONOR is CMV(-), ABO:Opos, HLA= ___ with a permissive DPB1 
WBC ENGRAFTMENT: ___
PLT ENGRAFTMENT:  ___
PRBC TRANSFUSION DURING ADMISSION: 0 units 
PLT TRANSFUSION DURING ADMISSION: 2 units 

POST TRANSPLANT IN PATIENT COMPLICATIONS:
1) Fever with  ATG Work up and cultures negative
2) Fever on D+14, no source

___ D+74 mild thrombocytopenia, BMBx done chimerisms 99%
donor, no evidence of leukemia, NPM1-, FLT3 pending

___ D+82 stopped posaconazole, Rx for sorafanib

___ D+95 diffuse macular rash, Sorafanib stopped

___ Admission for abdominal pain, fever and rash
EGD negative for GVHD, rash consistent with drug rash. 

___ restarted sorafanib

___ D +182 Stopped tacrolimus

___ D +365 ___ vaccinations 

___ D+424 ___ vaccinations

___ D+550 ___ vaccinations Modified based on new vaccine 
SOP,
CHEMERISM 100% donor

___ mild pancytopenia, stopped sorafanib, bactrim changed to
pentamidine 

___ progressive cytopenias, BMX: RELAPSED AML (NPM1+, CEBPA+,
TET2+)

___ Started Lenalidomide 50 mg D1-10
--___ MEC 
--___ count recovery ANC >1000, PLT >100,000
--___ BMBX (morphological remission, MRD (+)

___ plan for admission for ___ allo Flu/Mel conditioning, MUD
(different donor)

___ BMBx:
BONE MARROW ASPIRATE AND CORE BIOPSY DIAGNOSIS:
ACUTE MYELOID LEUKEMIA; SEE NOTE.
Note: The aspirate smears revealed a population of blasts
representing 37% of the aspirate differential count. The core
biopsy shows an abnormal infiltrate of immature mononuclear 
cells
consistent with blasts representing 40-50% of the overall
cellularity. Corresponding flow cytometry revealed involvement 
by
an abnormal population of CD34 negative/CD117 positive
myeloblasts representing 36% of total analyzed events (see
separate report ___ for full results). The morphologic and
immunophenotypic features are in keeping with involvement by
relapsed acute myeloid leukemia. The erythroid dysplasia is of
unclear significance. Correlation with clinical, cytogenetics
(see separate report ___-___) and other ancillary testing
results is recommended for further characterization. 

PAST MEDICAL/SURGICAL HISTORY: 
AML s/p alloSCT ___ 
Ventral hernia s/p repair as a child
Lipoma
Anxiety 

 
Social History:
___
Family History:
No history of cancer in the family
Children: 3 children ages ___, ___, ___
2 siblings, 1 sister and 1 brother, both healthy and live 
locally

 
Physical Exam:
ADMISSION
=========
Vitals: AF 125/71 HR 62 RR 20 O2 97 RA
Gen: Pleasant, calm and well appearing 
HEENT: Mild pallor, EOMI, clear OP 
LYMPH: No cervical or supraclav LAD
CV: Normocardic, regular. Normal S1,S2. No audible murmurs. 
LUNGS: No increased WOB. CTAB. No wheezes, crackles, or rhonchi. 

ABD: NABS. Soft, NT, ND.  
EXT: WWP. No ___ edema. 
SKIN: No rashes/lesions, petechiae/purpura ecchymoses.  
NEURO: A&Ox3.
LINES: newly placed right CVL with small amount of fresh blood
and surrounding erythema otherwise no warmth or tenderness. 

DISCHARGE
=========
24 HR Data (last updated ___ @ 907)
    Temp: 98.2 (Tm 99.5), BP: 152/95 (134-155/81-95), HR: 62
(62-78), RR: 18, O2 sat: 99% (97-100), O2 delivery: RA, Wt: 
178.6
lb/81.01 kg  
HEENT: No pallor, EOMI, OP clear
CHEST: Rash has resolved
LYMPH: No cervical LAD
CV: Regular rate and rhythm. Normal S1,S2. No audible murmurs. 
LUNGS: No increased WOB. CTAB. No wheezes, crackles, or rhonchi. 

ABD: NABS. Soft, NT, ND. No rebound or guarding. 
EXT: WWP. No ___ edema.
BACK: Mild tenderness at site of LP, no hematoma appreciated 
SKIN: No petechiae/purpura ecchymoses.  
NEURO: A&Ox3. Conversant, mental status appears improved.
LINES: right CVL with no surrounding erythema, warmth,
tenderness, or purulence. 

 
Pertinent Results:
ADMISSION LABS
==============
___ 11:47AM BLOOD WBC-5.8 RBC-3.07* Hgb-9.7* Hct-30.3* 
MCV-99* MCH-31.6 MCHC-32.0 RDW-19.6* RDWSD-70.1* Plt ___
___ 11:47AM BLOOD Neuts-64.0 Lymphs-9.0* Monos-23.0* 
Eos-2.6 Baso-0.7 Im ___ AbsNeut-3.68 AbsLymp-0.52* 
AbsMono-1.32* AbsEos-0.15 AbsBaso-0.04
___ 11:47AM BLOOD ___ PTT-25.8 ___
___ 11:47AM BLOOD Glucose-114* UreaN-11 Creat-0.8 Na-140 
K-4.6 Cl-102 HCO3-25 AnGap-13
___ 11:47AM BLOOD ALT-29 AST-30 LD(LDH)-208 AlkPhos-125 
TotBili-0.4 DirBili-<0.2 IndBili-0.4
___ 11:47AM BLOOD TotProt-6.3* Albumin-4.2 Globuln-2.1 
Calcium-9.3 Phos-3.9 Mg-2.3 UricAcd-5.3

PERTINENT RESULTS
=================
CSF (___)
TNC--28, RBC--93, POLYS-2, LYMPHS-76, MONOS 22

MRI BRAIN (___)
 
FINDINGS:  
  
Areas of linear dural thickening and enhancement overlying 
bilateral cerebral 
hemispheres, measuring 2.5 mm in maximum thickness.  Findings 
are not 
definitely seen on head CT ___..  No definite 
decreased signal on 
gradient images.  No evidence of brainstem sagging. 
  
Moderate paranasal sinus disease.  Mild opacification bilateral 
mastoids. 
  
There is no evidence of edema, parenchymal masses, mass effect, 
midline shift 
or infarction.  No evidence of PRES.  The ventricles and sulci 
are normal in 
caliber and configuration.  Vascular flow voids are preserved.  
Dural venous 
sinuses are patent. 
  
IMPRESSION: 
  
  
1. Linear dural enhancement bilateral cerebral hemispheres, 
differential 
considerations include recent trauma, lumbar puncture, 
inflammatory, 
infectious, neoplastic process. 
2. No evidence of PRES. 
  
CHEST CT (___)
IMPRESSION: 
  
  
1. New small bilateral pleural effusions with minimal 
compressive atelectasis 
of the dependent lung bases. 
2. No evidence of pneumonia. 
3. 1.3 cm right thyroid nodule is unchanged dating back to ___. 

DISCHARGE LABS
==============
**********
 
Brief Hospital Course:
SUMMARY: ___ with relapsed AML, 24 months after allo transplant 
s/p reinduction therapy with MEC + Lenalidomide, here for 
planned admission for second allo transplant with a different, 
matched unrelated donor. Bone marrow engrafted well and patient 
cell counts had fully restored by post-transplant day 14. 
Hospital course was predominantly complicated by intermittent 
altered mental status and neutropenic fever, as described below: 


ACUTE ISSUES:

# Relapsed AML s/p MUD allo-SCT (___)
# Macrocytic anemia, stable
Patient underwent reinduction with MEC + Lenalidomide (protocol 
___ phase 2 study) for treatment of adult patients with 
relapsed or refractory AML and was admitted for planned allo SCT 
from an unrelated donor. She received RIC conditioning with 
Flu/Mel beginning ___ and Methotrexate administration on post 
transplant Days 1, 6, and ___. Patient was maintained on 
posaconazole, acyclovir, and atovaquone prophylaxis with plans 
to initiate Bactrim prophylaxis on ___. Patient tacrolimus 
levels were checked weekly and adjusted throughout his 
hospitalization course (most recent level of 10.6 on ___, 
regimen changed from 0.5 mg BID to 0.5/0.25 alternating 
regimen). EBV viral loads measured bi-weekly (negative to date) 
and CMV viral load were measured weekly and negative throughout 
patient hospital course. Patient spiked intermittent low grade 
fevers throughout the first two weeks of his post transplant 
course without localizing symptoms and negative infectious work 
up. He was managed on Vancomycin and Cefepime from ___ to ___ 
and remained afebrile after both medications were discontinued. 
Patient pain was initially managed with oxycodone and Ativan, 
however, was transitioned to Tylenol/tramadol regimen in setting 
of alterations of mental status (described below)

#AMS: Patient began experiencing intermittent episodes of 
altered mental status approximately 1 week after transplant. He 
initially described episodes as "hallucinations" in which he 
imagined conversations and encounters that did not occur, as 
well as experiencing intermittent auditory hallucinations in 
which he would hear music that was not playing. Episodes were 
initially associated with headaches and patient underwent brain 
MRI that was negative for PRES syndrome, however, showed 
symmetric linear dural enhancement. Neuro-oncology and neurology 
felt that imaging finding was likely was secondary to medication 
toxicity (cefepime) and did not explain his clinical 
presentation. He subsequently underwent diagnostic LP that 
showed elevated protein (>90) as well as 28 TNC with lymphocytic 
predominance. Flow cytometry was not consistent with CNS 
involvement in AML and work-up for viral etiology was negative 
(with several tests pending). Ultimately, transient nature of 
waning mental status was felt to be inconsistent with infectious 
etiology and symptoms were ultimately felt to be largely 
secondary to multiple mind-altering medications 
(oxycodone/Ativan/ambien). Patient mental status largely 
improved with discontinuation of this regimen and PRN Haldol and 
ramelteon regimen. Patient went several days with appropriate 
mental status and without hallucinations prior to discharge.

# Weight loss
# Decreased appetite
24 pound weight loss in the setting of re-induction; however 
slowly regained weight post transplant. Admission weight is 
89.4kg (197 lbs). Daily weights were measured and nutrition 
consulted. Home vitamin D supplement continued along with a 
multivitamin starting day 1. Weight on discharge is 176.8 lb

CHRONIC ISSUES:
---------------
# Adjustment disorder
# Anxiety
Home citalopram was continued throughout hospital course. 
Patient was initially prescribed Ativan for anxiety, however, 
medication was discontinued I/s/o AMS. Patient was prescribed 
ramelteon for sleep, however, ultimately was to help with sleep, 
however, ultimately was able to sleep through the night without 
medication. Social work followed with the patient throughout the 
hospitalization.

# Sinus bradycardia: 
HR 58 on admission, presumably physiologic secondary to his 
young age and the fact that he is physically fit. 

# Mild mitral regurgitation
# Mild-moderate tricuspid regurgitation
# Mild pulmonary artery hypertension
Noted on echocardiogram, no cardiac or respiratory symptoms. 
Euvolemic on exam. Was closely monitored for symptoms or signs 
of volume overload, especially in the setting of transfusions, 
however was not an active issue during his hospital course.

TRANSITIONAL ISSUES:
[ ] Please follow up pending CSF viral serologies
[ ] Please follow up final read on CSF flow cytometry
[ ] Please ensure patient receives MRI ___ weeks after discharge 
(monitoring of dural enhancement)
[ ] Please assess tacrolimus level within 48 hours of discharge 
(most recent level 10.6 on ___, discharged on alternating 0.5 
daily/BID regimen)
[ ] Please monitor patient mental status and ensure no return of 
insomnia or hallucinations
[ ] Please ensure patient initiates Bactrim prophylaxis on 
___

[ ] Discharge Cr: 0.7
[ ] New Medications: Folic Acid 1 mg, Prochlorperazine 10 mg PRN 
for nausea, Ramelteon 8 mg PRN, ursodiol 300 mg BID, Bactrim 1 
mg (start on ___, tacrolimus 0.5 daily/BID 
[ ] Changed Medications: None
[ ] Discontinued Medications: Lorazepam 0.5-1.0 mg PRN
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Posaconazole Delayed Release Tablet 300 mg PO DAILY 
2. Ranitidine 300 mg PO QHS 
3. Atovaquone Suspension 1500 mg PO DAILY 
4. Citalopram 10 mg PO DAILY 
5. Acyclovir 400 mg PO Q12H 
6. Sildenafil 100 mg PO DAILY:PRN sexual activity 
7. LORazepam 0.5 mg PO Q6H:PRN anxiety, nausea, insomnia 
8. Pantoprazole 40 mg PO DAILY 
9. Vitamin D ___ UNIT PO DAILY 
10. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Prochlorperazine 10 mg PO TID:PRN nausea 
RX *prochlorperazine maleate 10 mg 1 tablet(s) by mouth BID: PRN 
Disp #*30 Tablet Refills:*0 
3.  Ramelteon 8 mg PO QHS 
RX *ramelteon [Rozerem] 8 mg 1 tablet(s) by mouth QHS PRN Disp 
#*30 Tablet Refills:*0 
4.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
RX *sulfamethoxazole-trimethoprim 400 mg-80 mg 1 tablet(s) by 
mouth Daily Disp #*30 Tablet Refills:*0 
5.  Tacrolimus 0.5 mg PO Q12H 
Please alternate taking one pill once a day and one pill twice a 
day 
RX *tacrolimus 0.5 mg 1 capsule(s) by mouth every twelve (12) 
hours Disp #*45 Capsule Refills:*0 
6.  Ursodiol 300 mg PO BID 
RX *ursodiol 300 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0 
7.  Acyclovir 400 mg PO Q12H 
RX *acyclovir 200 mg 2 capsule(s) by mouth twice a day Disp #*30 
Capsule Refills:*0 
8.  Atovaquone Suspension 1500 mg PO DAILY 
RX *atovaquone 750 mg/5 mL 1500 mg by mouth Daily Refills:*0 
9.  Citalopram 10 mg PO DAILY 
RX *citalopram 10 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
10.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin [Daily Multiple]  1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0 
11.  Posaconazole Delayed Release Tablet 300 mg PO DAILY 
RX *posaconazole [Noxafil] 100 mg 3 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*2 
12.  Ranitidine 300 mg PO QHS 
RX *ranitidine HCl 300 mg 1 tablet(s) by mouth at bedtime Disp 
#*30 Tablet Refills:*0 
13.  Vitamin D ___ UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 2,000 unit 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
================
Acute myeloid leukemia

SECONDARY DIAGNOSIS
-------------------
Altered mental status 
Chronic lower back pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___.

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital to receive a planned stem 
cell transplant.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- You were treated with chemotherapy and received the stem cell 
transplant.
- You were managed with the standardized post transplant 
medications and all of your cell counts had normalized by time 
of discharge.
- Your hospital course was complicated by hallucinations and 
generally feeling restless and unwell. 
-You intermittently spiked fevers while your body was less able 
to fight infections and you were managed on antibiotics. You 
were afebrile for several days prior to discharge.

WHAT SHOULD I DO WHEN I GO HOME?
- Please take all of your medications as prescribed and attend 
all of your follow-up appointments as scheduled.

We wish you the best,
Your ___ care team
 
Followup Instructions:
___